US07846929B2
To a solution of (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-methanol (300 mg) in DMF (10 mL) at 0° C. was added sodium hydride (46 mg). The mixture was stirred for 1 h at 0° C. and then methyliodide (0.07 mL) was added. The reaction mixture was stirred at room temperature for 16 h and then quenched with water (20 mL) and extracted into ethyl acetate (2×20 mL). The combined organics were washed with aqueous brine solution (2×20 mL), dried (MgSO4) and concentrated to give 2-chloro-6-methoxymethyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidine as a yellow solid (92 mg).

reactant | (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-methanol | 300 mg | ClC=1N=C(C2=C(N1)C=C(S2)CO)N2CCOCC2 | C11H12ClN3O2S
reactant | sodium hydride | 46 mg | [H-].[Na+]
reactant | methyliodide | 0.07 mL | CI | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-chloro-6-methoxymethyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 92 mg | ClC=1N=C(C2=C(N1)C=C(S2)COC)N2CCOCC2 | C12H14ClN3O2S
